US07612114B2
6-{2-{Ethyl{4-{2-[(2-methoxyethyl)methylamino]ethoxy}benzyl}amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (19 mg) and 2-chloro-N-(2-methoxyethyl)-N-methylacetamide (12 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (2.1 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 19 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C32H37NO6
reactant | 2-chloro-N-(2-methoxyethyl)-N-methylacetamide | 12 mg | ClCC(=O)N(C)CCOC | C6H12ClNO2
product | 6-{2-{Ethyl{4-{2-[(2-methoxyethyl)methylamino]ethoxy}benzyl}amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 2.1 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN(C)CCOC | C33H44N2O5
